US06642389B2
In analogy to the procedure described in example 108 c], [rac]-2-ethoxy-3-(4-hydroxy-3-methyl-phenyl)-propionic acid ethyl ester [PCT Int. Appl. (2001), WO01/40172A1] was treated with 4-chloromethyl-2-phenyl-oxazole [prepared from benzamide and 1,3-dichloroacetone as described in Bioorg. Med. Chem. Lett. (2000), 10(17), 2041-2044] and sodium hydride in N,N-dimethylformamide to yield [rac]-2-ethoxy-3-[3-methyl-4-(2-phenyl-oxazol-4-ylmethoxy)-phenyl]-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 91 e] to yield [rac]-2-ethoxy-3-[3-methyl-4-(2-phenyl-oxazol-4-ylmethoxy) -phenyl]-propionic acid as colorless gum.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-3-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | 4-chloromethyl-2-phenyl-oxazole | ClCC=1N=C(OC1)C1=CC=CC=C1 | C10H8ClNO
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | [rac]-2-ethoxy-3-[3-methyl-4-(2-phenyl-oxazol-4-ylmethoxy)-phenyl]-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)OCC=1N=C(OC1)C1=CC=CC=C1)C)OCC)=O | C24H27NO5
